US06800651B2
N-((4-Methyl-3-(4-cyanophenyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
A solution of N-(3-iodo-4-methylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (103 mg,0.247 mmol) and 4-cyanophenylboronic acid (55 mg, 0.371 mmol) in 4 ml of 1,4-dioxane stirring under nitrogen was treated with 2M sodium carbonate (0.37 mL, 0.741 mmol) and tetrakis(triphenylphosphine)palladium(0) (12.6 mg, 0.011 mmol). This was refluxed for three hours and then allowed to stir at room temperature for 16 hours. The reaction had not completed after this time so the reaction was treated with an additional 5.7 mg(0.005 mmol) of tetrakis(triphenylphosphine)palladium(0) and refluxed for two hours. The reaction was then cooled to room temperature and concentrated in vacuo. This was then dissolved in a minimal amount of dichloromethane and purified on a Chromatotron (200 omicron plate) with 3% methanol/dichloromethane to give a residue which was recrystallized using ether/hexanes to give the title compound. 1H NMR: 8.45-8.55 (d, 1H, J=4 Hz), 8.35-8.40 (s, 1H), 7.75-7.80 (d, 1H, J=12 Hz), 7.65-7.70 (d, 1H, J=12 Hz), 7.20-7.35 (m, 5H), 7.15-7.20 (m, 1H), 7.00-7.05 (s, 1H), 4.85-4.95 (s, 2H), 3.05-3.15 (q, 2H, J=10z), 2.15-2.20 (s, 3H), 1.40-1.50 (t, 3H, J=8 Hz); MS calcd. 391.5; MS (M+1)=392.1.

reactant | N-(3-iodo-4-methylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 0.247 mmol, 103 mg | IC=1C=C(C=CC1C)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H17IN2O2S
reactant | 4-cyanophenylboronic acid | 0.371 mmol, 55 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 0.741 mmol, 2M, 0.37 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.011 mmol, 12.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.005 mmol, 5.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-Methyl-3-(4-cyanophenyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | CC1=C(C=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1)C1=CC=C(C=C1)C#N | C22H21N3O2S
